US06642237B1
To a solution of 4-bromo-1-methylpyrazole (15 g, 38.5 mmol) in ether (150 mL) n-Butyllithium (2.5M in hexanes, 17 mL, 42.4 mmol) was added at −78° C. After the reaction solution was stirred at −78° C. for 30 minutes, tributyltin chloride (11.5 mL, 42.4 mmol) was added. It was stirred at −60° C. for 1 hour and warmed to room temperature, at which it was stirred for 1 more hour. Then, it was diluted with ethyl acetate (300 mL) and washed with water (200 mL) and brine. The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product was purified by flash column chromatography on silica gel with hexanes/ethyl acetate=10/1 as eluant to get 1-methyl-4-tributylstannylpyrazole as a white wax. 1H NMR (CDCl3, 300 MHz): δ7.42 (s, 1H), 7.23 (s, 1H), 3.93 (s, 3 H). 1.28-1.55 (m, 18 H), 0.91 (t, J=15 Hz, 9 H).

reactant | 4-bromo-1-methylpyrazole | 38.5 mmol, 15 g | BrC=1C=NN(C1)C | C4H5BrN2
reactant | ether | 42.4 mmol, 2.5M, 150 mL | CCOCC | C4H10O
reactant | tributyltin chloride | 42.4 mmol, 11.5 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 1-methyl-4-tributylstannylpyrazole | CN1N=CC(=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H5N2.3C4H9.Sn/c1-6-4-2-3-5-6;3*1-3-4-2;/h3-4H,1H3;3*1,3-4H2,2H3;
